US04713457
3-(6-Methylergolin-8β-ylmethyl)oxazolidin-2-one
0.5 g of 50% sodium hydride in an oil was added in small portions to a mixture of 2.0 g of oxazolidin-2-one and 15 ml of dimethylformamide, and the resulting mixture was stirred for 30 minutes. 2.0 g of 6-methylergolin-8β-ylmethyl tosylate was added to the mixture which was then heated on a water bath for 1 hour. The solvent was distilled off under reduced pressure, and the residue (which was dissolved in dichloromethane and adsorbed on silica gel) was purified by silica gel column chromatography (eluted with ethyl acetate:isopropyl alcohol=1:1 by volume). The product was recrystallized from isopropyl alcohol to obtain 1.3 g of the titled compound as colorless needles having a melting point higher than 240° C. (with decomposition).

reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | oxazolidin-2-one | 2.0 g | O1C(NCC1)=O | C3H5NO2
reactant | 6-methylergolin-8β-ylmethyl tosylate | 2.0 g | S(=O)(=O)(OC[C@H]1CN([C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34)C)C3=CC=C(C)C=C3 | C23H26N2O3S
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-(6-Methylergolin-8β-ylmethyl)oxazolidin-2-one | 1.3 g | CN1C[C@@H](C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)CN3C(OCC3)=O | C19H23N3O2
